US04268693
220 g of 2-nitro-5-(4-chlorophenoxy)-anisole are dissolved in 2000 ml of dioxane and, after addition of 20 g of Raney nickel, the solution is hydrogenated at room temperature and under normal pressure. The theoretical amount of hydrogen is taken up after 12 hours, whereupon the catalyst is filtered off and the solvent evaporated, affording as residue 196.5 g of 2-amino-5-(4-chlorophenoxy)-anisole in the form of a dark brown oil, which is further processed direct.

reactant | 2-nitro-5-(4-chlorophenoxy)-anisole | 220 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=CC=C(C=C1)Cl)OC | C13H10ClNO4
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 2000 ml | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 20 g | [Ni] | Ni
product | 2-amino-5-(4-chlorophenoxy)-anisole | 196.5 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)Cl)OC | C13H12ClNO2
